US08614234B2
To a stirred solution of (S)-5-tert-butyl 1-methyl 2-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}pentanedioate (120 mg, 0.19 mmol) in a mixture of solvents THF/MeOH (5 ml/5 ml) was added 1 ml of 1M NaOH (1 mmol) solution. The mixture was stirred at room temperature for 30 minutes, and poured into 100 ml of water. 2M HCl was added dropwise until pH=4. The resulting precipitates were filtered, washed with water, and dried in vacuo to give (2S)-5-tert-butoxy-2-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}-5-oxopentanoic acid as white solid. Yield: 100 mg, 85%.

reactant | (S)-5-tert-butyl 1-methyl 2-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}pentanedioate | 0.19 mmol, 120 mg | FC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)N[C@H](C(=O)OC)CCC(=O)OC(C)(C)C)C=CC1NC(=O)NC1=CC(=CC=C1)C | C34H36FN5O7
reactant | THF MeOH | 5 ml | C1CCOC1.CO
reactant | NaOH | 1 mmol, 1M, 1 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | water | 100 ml | O | H2O
product | (2S)-5-tert-butoxy-2-{[(5-{4-[3-fluoro-4-({[(3-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrol-3-yl)carbonyl]amino}-5-oxopentanoic acid | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)C1=CNC(=C1)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=CC=C1)C)F)=O | C33H34FN5O7
